US06339101B1
Synthesis of (2S)-1-(phenylmethyl)sulfonyl-2-pyrrolidinecarbonitrile (Compound 97) (C).
To a solution of 0.67 ml DMF (8.7 mmol)in 10 ml acetonitrile at 0° C. was added 0.70 ml (8.0 mmol) oxalyl chloride. A white precipitate was formed immediately and was accompanied by gas evolution. When complete, a solution of 2.0 g (7.5 mmol) of (2S)-1-(phenylmethyl)sulfonyl-2-pyrrolidinecarboxamide in 5.0 ml acetonitrile was added. When the mixture became homogeneous, 1.35 ml (16.5 mmol) pyridine was added. After 5 min., the mixture was diluted with water, and extracted by 200 ml ethyl acetate. The organic layer was concentrated and further purified by silica gel to give 1.5 g product as a white solid (80% yield). 1H NMR (CDCl3): d 01.92 (m, 2H); 2.01 (m, 1H); 2.11 (m, 1H); 3.45 (m, 2H); 4.35 (s, 2H); 4.65 (m, 1H); 7.26-7.45 (m, 5H, aromatic).

reactant | DMF | 8.7 mmol, 0.67 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 8.0 mmol, 0.70 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2S)-1-(phenylmethyl)sulfonyl-2-pyrrolidinecarboxamide | 7.5 mmol, 2.0 g | C1(=CC=CC=C1)CS(=O)(=O)N1[C@@H](CCC1)C(=O)N | C12H16N2O3S
reactant | pyridine | 16.5 mmol, 1.35 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | (2S)-1-(phenylmethyl)sulfonyl-2-pyrrolidinecarbonitrile | 1.5 g, 80% yield | C1(=CC=CC=C1)CS(=O)(=O)N1[C@@H](CCC1)C#N | C12H14N2O2S
